US08664401B2
Step B) 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]pyridine
The title compound (0.23 g, 100%) was prepared from 2-(4-bromophenoxy)pyridine (266 mg, 1.1 mmol) and bis(pinacolato)diborane (190 mg, 0.76 mmol) by a general procedure analogous to that described for the preparation of 2-[3-fluoro-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]tetrahydro-2H-pyran, Example 12, step C. MS (LCMS) m/z 298.5 (M+1).

reactant | 2-(4-bromophenoxy)pyridine | 1.1 mmol, 266 mg | BrC1=CC=C(OC2=NC=CC=C2)C=C1 | C11H8BrNO
reactant | bis(pinacolato)diborane | 0.76 mmol, 190 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 2-[3-fluoro-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]tetrahydro-2H-pyran | FC=1C(=C(OC2OCCCC2)C=CC1B1OC(C(O1)(C)C)(C)C)C | C18H26BFO4
product | 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]pyridine | 0.23 g, 100% | CC1(OB(OC1(C)C)C1=CC=C(OC2=NC=CC=C2)C=C1)C | C17H20BNO3
